US08119795B2
2.1 1 ml of conc. sulfuric acid is added to a solution of 100 g of 2,4-dimethoxybenzoic acid in 500 ml of methanol, and the mixture is refluxed for 14 hours. The mixture is cooled, the solvent is removed, the residue is dissolved in 1 litre of MTB, the solution is washed three times with 200 ml of water each time and dried, and the solvent is removed, giving 105.5 g of methyl 2,4-dimethoxybenzoate.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2,4-dimethoxybenzoic acid | 100 g | COC1=C(C(=O)O)C=CC(=C1)OC | C9H10O4
reactant | methanol | 500 ml | CO | CH4O
product | methyl 2,4-dimethoxybenzoate | 105.5 g | COC1=C(C(=O)OC)C=CC(=C1)OC | C10H12O4
